Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Iodinated Contrast Media
 
Attending: ___
 
Chief Complaint:
Left retinal artery branch occlusion
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: ___ is a ___ year old male with h/o light chain amyloidosis
s/p stem cell transplant who presents with weeks of visual field
defect. Three weeks ago he was getting on the bus and noted a
thick grey arch in the left lower field of his vision only out 
of
the left eye. Still able to read, drive etc. Over the next days
is came and went intermittently with decreasing frequency and
duration. Sometimes would last minutes, sometimes seconds.
Consistent defect. Last noticed it for seconds today. He
particularly noticed it with standing up, walking up stairs or
"when my blood pressure is low". He had a history of syncopal
symptoms or "whiting out of his vision" with orthostasis, 
started
after transplant. He describes his BPs as labile. Was recently 
on
amlodipine 2.5mg but was taken off earlier this month as he was
experiencing "hot flashes". BPs run in the 140s systolic and he
reports pre-syncopal symptoms when SBP 120s. 

Today he was see at ___ by Dr. ___ (ophtho)
where she noted a large CWS superiorly and small Branch retinal
artery occlusion and referred to ___ ED for stroke work up.
 
Past Medical History:
light chain Amyloidosis (followed at ___) s/p chemotherapy
Stem cell transplant ___ 
Scarlet fever
Patching the left eye in childhood.  He has history of lazy eye
on the right.  He has been wearing glasses since age ___.  He
remembers having to do exercises in childhood when he lived in
___.  He does not remember any mention of strabismus surgery.
CKD, baseline Cr 1.7-1.8
Chemo-induced neuropathy
 
Social History:
___
Family History:
no family history of early strokes

 
Physical Exam:
Physical exam on admission

Vitals: Today 14:38, pain 0, T 96.1, HR 76, BP 144/89, RR 18 96%
RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 7 to 6.5mm (dilated at ophtho) and 
brisk.
EOMI, when he covers either eye has outward beating nystagmus of
the uncovered eye, more prominant on the right. Normal saccades.
VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: Decreased pinprick sensation of the lateral aspect of
the dorsum of the foot. Decreased temperature throughout foot.
Absent vibration at the toe, reduced (4 seconds) bilateral 
ankle.
proprioception intact in toes. No extinction to DSS.

-Reflexes:
  [Bic] [___] [Pat] [Ach]
L   2     2      1     1
R   2     2      1     1 
Plantar response was flexor bilaterally.

-Coordination: Mild intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.

Discharge physical exam ___
T=98.0, BP=139 / 90, HR=70, 18, SPO2=96, RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL, EOMI, when he covers either eye has 
outward beating nystagmus of the uncovered eye. VFF to 
confrontation. Hypertropia and exotropia present on the right 
eye
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: Decreased pinprick sensation of the lateral aspect of
the dorsum of the foot. Decreased temperature throughout foot.
Absent vibration at the toe, reduced (4 seconds) bilateral 
ankle.
proprioception intact in toes. No extinction to DSS.

-Reflexes:
  [Bic] [___] [Pat] [Ach]
L   2     2      1     1
R   2     2      1     1 
Plantar response was flexor bilaterally.

-Coordination: Mild intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

 

 
Pertinent Results:
___ 08:35AM BLOOD WBC-5.1 RBC-4.80 Hgb-13.9 Hct-43.1 MCV-90 
MCH-29.0 MCHC-32.3 RDW-13.7 RDWSD-44.8 Plt ___
___ 05:45PM BLOOD WBC-6.4 RBC-4.65 Hgb-13.5* Hct-43.0 
MCV-93 MCH-29.0 MCHC-31.4* RDW-13.6 RDWSD-46.5* Plt ___
___ 08:35AM BLOOD Plt ___
___ 08:35AM BLOOD ___ PTT-32.4 ___
___ 05:45PM BLOOD Plt ___
___ 05:45PM BLOOD ___ PTT-32.9 ___
___ 08:35AM BLOOD Glucose-88 UreaN-28* Creat-1.7* Na-144 
K-4.2 Cl-106 HCO3-25 AnGap-13
___ 05:45PM BLOOD Glucose-98 UreaN-33* Creat-1.8* Na-143 
K-4.6 Cl-106 HCO3-24 AnGap-13
___ 05:45PM BLOOD ALT-9 AST-16 CK(CPK)-84 AlkPhos-82 
TotBili-1.1
___ 08:35AM BLOOD Calcium-9.2 Phos-3.1 Mg-2.2
___ 05:45PM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:45PM BLOOD Albumin-4.3 Calcium-9.4 Phos-3.3 Mg-2.2 
Cholest-213*
___ 08:35AM BLOOD VitB12-500 Folate-15
___ 04:55AM BLOOD %HbA1c-5.6 eAG-114
___ 05:45PM BLOOD Triglyc-107 HDL-58 CHOL/HD-3.7 
LDLcalc-134*
___ 08:35AM BLOOD TSH-3.1
___ 05:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:45PM BLOOD GreenHd-HOLD
___ 08:35AM BLOOD
___ 05:45PM BLOOD
___ 04:55AM BLOOD SED RATE-CANCELLED
 
Brief Hospital Course:
Patient was found to have left retinal artery branch occlusion 
on optho evaluation. The remainder of his neurologic exam was 
normal. Clopidogrel load 300 mg was given in the ED and Aspirin 
81 mg and Clopidogrel 75 mg were continued on the floor. His 
stroke risk factors were assessed with A1c 5.61, LDL 136. His 
SBP was up to 200 at times. TTE showed no cardioembolic source 
of BRAO. Carotid ultrasounds showed no stenosis. MRI/MRA brain 
was without stroke of significant atherosclerosis. Ziopatch was 
placed prior to discharge for ongoing monitoring but no atrial 
fibrillation was captured in the hospital. Etiology felt to be 
atheroembolic or cardioembolic. Given LDL 134, Crestor 5 mg 
daily was started. Higher intensity statin was not started given 
prior muscle aches and possible myopathy with atorvastatin. He 
was started on amlodipine 2.5 mg daily given hypertension. He 
was discharged on ASA/Plavix with tentative plan for 90 days and 
then single antiplatelet ongoing. Follow-up with neurology 
planned for ___ months.

 
Medications on Admission:
None.
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN pain or temp > ___  
2.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
4.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation  
5.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
6.  Rosuvastatin Calcium 5 mg PO QPM 
RX *rosuvastatin 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left retinal artery occlusion
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of left retinal artery 
branch occlusion resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

Hypertension

Hyperlipidemia

We are changing your medications as follows:

Restarting amlodipine 2.5 mg daily

Starting rosuvastatin calcium 5 mg daily

Starting Clopidogrel 75 mg daily

Starting Aspirin 81 mg daily

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___